* Y:\Desktop\Fall 2011\Larry Lab\EECS-371\Lab 7\TrackingSupply.asc
D1 0 Vref 1N4735A
Q1 N002 N007 N008 0 2N4401
R3 Vout+ N007 270
R4 N007 0 560
XQ2 Vin+ N002 N001 tip102
V1 Vin+ 0 12
R5 Vout+ N001 .33
Q3 N002 N001 Vout+ 0 2N4401
R6 Vout+ 0 {R6}
D2 Vin+ N003 1N4148
D4 N003 N005 1N4148
Q4 Vref N005 P001 0 2N4403
R1 Vin+ P001 12
R8 N006 0 9.1k
R9 Vref N006 1
Q8 N002 N005 N004 0 2N4403
R2 Vin+ N004 47
Q10 Vin+ N006 N008 0 2N4401
R15 N005 0 1k
R16 N008 0 100
Q11 N011 N010 N009 0 2N4403
R7 Vin- N013 47
Q13 N011 N012 N013 0 2N4401
R12 N009 Vin+ 680
Q15 Vin- 0 N009 0 2N4403
Q16 N011 N015 Vout- 0 2N4403
R13 Vout- N015 .33
V3 0 Vin- 12
D3 N012 N014 1N4148
D5 N014 Vin- 1N4148
R14 0 N012 820
R17 Vout+ N010 470
R18 N010 Vout- 470
R19 0 Vout- {R6}
XQ5 Vin- N011 N015 X2N6667
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 1 0 .1
.SUBCKT tip102 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan 20, 03
* MODEL FORMAT: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=11.2198
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56651e-10
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS tip102
.step param R6 list 6 1Meg
.SUBCKT X2N6667 1 2 3
* Model generated on Feb 22, 2004
* Model format: SPICE2
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=13.8617
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=9.17112e-13 BF=114.702 NF=0.85 VAF=143.15
+IKF=0.158122 ISE=3.25989e-12 NE=1.50766 BR=0.989764
+NR=0.75 VAR=101.096 IKR=0.0999728 ISC=1e-13
+NC=2 RB=10.2022 IRB=0.2 RBM=10.2022
+RE=0.101463 RC=1.02201 XTB=0.494916 XTI=3.0005 EG=1.12943
+CJE=1.88252e-10 VJE=0.4 MJE=0.249014 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.03811e-10
+VJC=0.641845 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=9.17112e-13 BF=114.702 NF=0.85 VAF=143.15
+IKF=0.158122 ISE=3.25989e-12 NE=1.50766 BR=0.989764
+NR=0.75 VAR=101.096 IKR=0.0999728 ISC=1e-13
+NC=2 RB=10.2022 IRB=0.2 RBM=10.2022
+RE=0.101463 RC=1.02201 XTB=0.494916 XTI=3.0005 EG=1.12943
+CJE=1.88252e-10 VJE=0.4 MJE=0.249014 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.641845 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS X2n6667
.backanno
.end
